US06903086B2
To a solution of 2-hydroxynaphtoic acid (2.02 g, 10.7 mmol) in dichloromethane (45 mL) and THF (2 mL) were added 2-trimethylsilylethanol (4.6 mL, 32.2 mmol) and 4-dimethylaminopyridine (1.07 g, 8.9 mmol) under N2. The mixture was cooled to 0° C. and 1,3-dicyclohexylcarbodiimide (2.33 g, 11.3 mmol) was added. After removal of the ice bath, the mixture was stirred for 3 h at room temperature. 2N HCl was added to adjust the pH to 2, and the mixture was filtered to remove urea. After the separation of layers the organic phase was washed with water and brine, dried (Na2SO4), and concentrated to dryness. Purification by chromatography gave 2.92 g of 2-hydroxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester.

reactant | 2-hydroxynaphtoic acid | 10.7 mmol, 2.02 g | OC1=C(C2=CC=CC=C2C=C1)C(=O)O | C11H8O3
reactant | 2-trimethylsilylethanol | 32.2 mmol, 4.6 mL | C[Si](CCO)(C)C | C5H14OSi
reactant | 1,3-dicyclohexylcarbodiimide | 11.3 mmol, 2.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 8.9 mmol, 1.07 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-hydroxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 2.92 g | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)O)(C)C | C16H20O3Si
